US05614633
To 3 ml of anhydrous tetrahydrofuran solution of 0.21 ml of 2-bromopyridine was added dropwise 1.38 ml of 1.68M n-butyllithium hexane solution at -78° C. under nitrogen atmosphere. After 30 minutes, 4.26 ml of solution of 0.5M zinc chloride in dry tetrahydrofuran was added thereto and the mixture was stirred at -78° C. for 15 minutes and under ice-cooling for 15 minutes. To the mixture were added under ice-cooling 65 mg of tetrakis(triphenylphosphine)palladium (0) and 330 mg of 4-trifluoromethanesulfonyloxy-2,2-bisfluoromethyl-6-nitro-2H-1,3-benzoxazine. The mixture was warmed to room temperature and was stirred for additional 36 hours. Water was added to the reaction mixture which was then extracted with ethyl acetate and dried. The solvent was distilled off and the resultant residue was purified using column chromatography (developing solution, AcOEt:hexane=1:5) to obtain 110 mg of oily 2,2-bisfluoromethyl-6-nitro-4-(2-pyridyl)-2H-1,3-benzoxazine represented by the following formula.

reactant | 2-bromopyridine | 0.21 ml | BrC1=NC=CC=C1 | C5H4BrN
reactant | n-butyllithium hexane | 1.68M, 1.38 ml | CCCCCC.C(CCC)[Li]
reactant | 4-trifluoromethanesulfonyloxy-2,2-bisfluoromethyl-6-nitro-2H-1,3-benzoxazine | 330 mg | FC(S(=O)(=O)OC1=NC(OC2=C1C=C(C=C2)[N+](=O)[O-])(CF)CF)(F)F | C11H7F5N2O6S
reactant | Water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | zinc chloride | 0.5M | [Cl-].[Zn+2].[Cl-]
catalyst | tetrakis(triphenylphosphine)palladium | 65 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 2,2-bisfluoromethyl-6-nitro-4-(2-pyridyl)-2H-1,3-benzoxazine | 110 mg | FCC1(OC2=C(C(=N1)C1=NC=CC=C1)C=C(C=C2)[N+](=O)[O-])CF | C15H11F2N3O3
